US07943669B2
Step A: {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethyl-phenoxy}-acetic Acid Ethyl Ester
The title product was prepared from [4-(3-Bromo-5-isobutoxy-phenylsulfanyl)-2,5-dimethyl-phenoxy]-acetic acid ethyl ester (400 mg; 0.86 mmol) and 4-prop-2-ynyl-morpholine (321.3 mg; 2.6 mmol) applying the procedure described for {4-[3-[2-(4-Chlorophenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 350 mg; 80%. HPLC-MS: m/z: 512.2 (M+H)+; Rt: 2.09 min.

reactant | [4-(3-Bromo-5-isobutoxy-phenylsulfanyl)-2,5-dimethyl-phenoxy]-acetic acid ethyl ester | 0.86 mmol, 400 mg | C(C)OC(COC1=C(C=C(C(=C1)C)SC1=CC(=CC(=C1)OCC(C)C)Br)C)=O | C22H27BrO4S
reactant | 4-prop-2-ynyl-morpholine | 2.6 mmol, 321.3 mg | C(C#C)N1CCOCC1 | C7H11NO
reactant | {4-[3-[2-(4-Chlorophenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C(=C1)C)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(C)C)C)=O | C29H37NO5S
